US07375124B2
Preparation of the intermediate product methyl 2-(4-hydroxyphenyl-thio)isobutyrate (ST1923)
The title product was prepared according to the procedure described in Method A (step 1) starting from 4-mercaptophenol (0.500 g, 4.0 mmol) in 10 mL of anhydrous CH3CN, to which was added NaH 80% (0.144 g, 4.8 mmol). The mixture was cooled to 0° C. and after 5 minutes methyl-α-bromoisobutyrate (0.724 g, 4.0 mmol) was added. The reaction was left for two days at room temperature under magnetic stirring. After this period, the mixture was poured into H2O and extracted with ethyl acetate; the aqueous phase was then acidified with HCl 1N and extracted again with ethyl acetate. The pooled organic phases were dried on Na2SO4, filtered and evaporated. The residue obtained was purified by silica gel chromatography using CHCl3 as eluent. 0.760 g of product were obtained (yield: 84%); Mp: 110-112° C.; TLC: silica gel, eluent CHCl3, Fr: 0.11; 1H NMR (CDCl3, 300 MHz) δ: 7.30 (d, 2H), 6.73 (d, 2H), 5.57 (brm, 1H), 3.70 (s, 3H), 1.45 (s, 6H); HPLC: Column: Symmetry—C18, (5 μm) 4.6×250 mm, T: 30° C., mobile phase CH3CN/H2O 50/50 (v/v), pH: as is, flow rate: 0.75 mL/min, 205 nm UV detector, retention time 10.14 min; E.A. (elemental analysis) conforming for C11H14O3S.

reactant | 4-mercaptophenol | 4.0 mmol, 0.500 g | SC1=CC=C(C=C1)O | C6H6OS
reactant | NaH | 4.8 mmol, 0.144 g | [H-].[Na+]
reactant | methyl-α-bromoisobutyrate | 4.0 mmol, 0.724 g | COC(C(C)(C)Br)=O | C5H9BrO2
reactant | H2O | O | H2O
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | methyl 2-(4-hydroxyphenyl-thio)isobutyrate | yield: 84% | OC1=CC=C(C=C1)SC(C(=O)OC)(C)C | C11H14O3S
